US08017363B2
First, the pAET7 plasmid described in Example 1 was introduced into a wild-type strain of M. methylotrophus AS1 (NCIMB10515), and a transformant was selected in an SEII agar medium containing 50 mg/L streptomycin. The pMIV-FRTKmFRT-EA plasmid was introduced into the strain by electroporation in accordance with the method described in Example 2, and strains to which the mini-Mu cassette (EA unit) including the lysE24+dapA* genes was transferred to the chromosome were selected in an SEII agar medium containing 50 mg/L streptomycin and 20 mg/L kanamycin. From the strains, 200 strains were selected randomly and inoculated on SEII plates containing 50 mg/L streptomycin and 20 mg/L kanamycin, followed by culturing at 37° C. overnight. Then, bacterial cells present on the medium surface of about 0.3 square centimeters were scraped off and inoculated into an SEII production medium (5 ml) containing 50 mg/l streptomycin and 20 mg/L kanamycin, and the cells were cultured with shaking at 37° C. for 34 hours. After completion of culture, the bacterial cells were removed by centrifugation, and the concentration of L-lysine in each culture supernatant was measured using a Biotech-analyzer AS-210 (manufactured by Sakura Seiki Co., Ltd.) to select the strain having the highest concentration of L-lysine. The strain was designated as V1. Transfer was repeated 12 times in the same way as Example 3 to obtain the V12 strain. The amount of Lys produced by V1 was defined as 100, and the relative value of the amount of Lys produced by the V12 strain was calculated and shown in Table 9.

reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | dapA | CC(C(CCCCCC(=O)O)N)N | C9H20N2O2
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
solvent | EA | CC(OCC)=O | C4H8O2
product | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
